US07638515B2
5-{[2-Hydroxy-5-methoxy-2-(trifluoromethyl)-4,4,6-trimethyl-1,2,3,4-tetrahydronaphthalen-1-yl]amino}-quinolin-2(1H)-one
Analogously to Example 10, the corresponding imine is produced starting from 600 mg of 4-(2-methoxy-4-methylphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal and 315 mg of 5-aminoquinolin-2(1H)-one. 12 mg of the title compound is obtained by reaction of 370 mg of the imine with 8.3 ml of titanium tetrachloride (1 M in dichloromethane) in 20 ml of dichloromethane.

reactant | 4-(2-methoxy-4-methylphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal | 600 mg | COC1=C(C=CC(=C1)C)C(CC(C=O)(C(F)(F)F)O)(C)C | C15H19F3O3
reactant | 5-aminoquinolin-2(1H)-one | 315 mg | NC1=C2C=CC(NC2=CC=C1)=O | C9H8N2O
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | titanium tetrachloride | 1 M, 8.3 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 5-{[2-Hydroxy-5-methoxy-2-(trifluoromethyl)-4,4,6-trimethyl-1,2,3,4-tetrahydronaphthalen-1-yl]amino}-quinolin-2(1H)-one | 12 mg | OC1(C(C2=CC=C(C(=C2C(C1)(C)C)OC)C)NC1=C2C=CC(NC2=CC=C1)=O)C(F)(F)F | C24H25F3N2O3
